US03954730
C. 1-Cyano-1-cyclobutanecarboxylic acid
20 g (0.131 mol) of 1-cyano-1-cyclobutanecarboxylic acid ethyl ester are dissolved in 60 ml of methanol and saponified with 40 ml of 4 N NaOH for about 12 hours at 23° C.

reactant | 1-cyano-1-cyclobutanecarboxylic acid ethyl ester | 0.131 mol, 20 g | C(C)OC(=O)C1(CCC1)C#N | C8H11NO2
reactant | NaOH | 4 N, 40 ml | [OH-].[Na+]
solvent | methanol | 60 ml | CO | CH4O
product | 1-Cyano-1-cyclobutanecarboxylic acid | C(#N)C1(CCC1)C(=O)O | C6H7NO2
